US08877423B2
p-tert-Butoxystyrene (176.3 g (1.0 mol)) and 16.2 g (0.105 mol) of cyclohexyl acrylate were dissolved in 250 ml of isopropanol, and in a nitrogen stream, 2,2′-azobisisobutyronitrile was added. The mixture was allowed to undergo a polymerization reaction at 75° C. for 6 hours. The reaction solution was cooled and then poured in 5,000 ml of methanol for crystallization. The precipitated crystal was collected by filtration, washed with methanol and dried under reduced pressure to obtain 172.5 g of poly(p-tert-butoxystyrene/cyclohexyl acrylate) as white powder crystal. The component ratio between p-tert-butoxystyrene unit and cyclohexyl acrylate unit in the obtained resin was found to be about 90:10 from 1HNMR and 13CNMR measurements. Also, the results of GPC measurement using polystyrene as a standard were Mw of about 20,600 and Mw/Mn of 1.55.

reactant | p-tert-Butoxystyrene | 1.0 mol, 176.3 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | cyclohexyl acrylate | 0.105 mol, 16.2 g | C(C=C)(=O)OC1CCCCC1 | C9H14O2
reactant | 2,2′-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
solvent | methanol | 5,000 ml | CO | CH4O
product | p-tert-butoxystyrene cyclohexyl acrylate | C(C)(C)(C)OC1=CC=C(C=C)C=C1.C(C=C)(=O)OC1CCCCC1 | InChI=1S/C12H16O.C9H14O2/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-2-9(10)11-8-6-4-3-5-7-8/h5-9H,1H2,2-4H3;2,8H,1,3-7H2
